US05089504
2-aminobenzyl alcohol (12.32 g, 0.1 mol) was dissolved in ethyl 2-isobutyryl-3-ethoxyacrylate (23.57 g, 0.11 mol) stirred for 2 hours at room temperature then warmed briefly to boiling. Cooling and trituration with petroleum ether gave ethyl 2-isobutyryl-3-(2-(hydroxymethyl)phenylamino)acrylate (22.29 g, 77%) as a mixture of E/Z isomers, m.p. 72°-84°.

reactant | 2-aminobenzyl alcohol | 0.1 mol, 12.32 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | ethyl 2-isobutyryl-3-ethoxyacrylate | 0.11 mol, 23.57 g | C(C(C)C)(=O)C(C(=O)OCC)=COCC | C11H18O4
product | ethyl 2-isobutyryl-3-(2-(hydroxymethyl)phenylamino)acrylate | 22.29 g, 77% | C(C(C)C)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)CO | C16H21NO4
